US03995042
To a suspension of 2.05 g of sodium 2-propoxide in 200 ml of 2-propanol is added 8.3 g of 2-amino-1-[[(o-bromophenyl)thio]methyl]pyridinium chloride, and the mixture is stirred and heated under reflux for about 5 hours. During this time the flocculent sodium 2-propoxide is replaced by a granular precipitate. The mixture is filtered hot, the insoluble solid is washed repeatedly with warm 2-propanol, and the combined filtrate and washings are concentrated to a volume of about 25 ml in vacuo. The solution is cooled, the solid that separates is filtered, and then is recrystallized from cyclohexane to give 1-[(o-bromophenylthio)methyl] -2-iminopyridine.

reactant | 2-amino-1-[[(o-bromophenyl)thio]methyl]pyridinium chloride | 8.3 g | [Cl-].NC1=[N+](C=CC=C1)CSC1=C(C=CC=C1)Br
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 1-[(o-bromophenylthio)methyl] -2-iminopyridine | BrC1=C(C=CC=C1)SCN1C(C=CC=C1)=N | C12H11BrN2S
